US08664401B2
Step A) 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydro-2H-pyran
To a solution of 4-(4-bromophenyl)tetrahydro-2H-pyran (250 mg, 1.04 mmol) in dioxane (7 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (290 mg, 1.14 mmol) and potassium acetate (210 mg, 2.07 mmol), followed by PdCl2(dppf) (80.1 mg, 0.104 mmol, 10 mol %). The reaction mixture was stirred at 80° C. for overnight. The reaction was cooled to room temperature then added 5 mL of water and 10 mL of ethyl acetate. The aqueous layer was extracted with ethyl acetate (10 mL×3) and the combined organics were dried with sodium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel (Gradient: 0% to 100% ethyl acetate in heptane) to give the title compound as a solid (33.8%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29 (s, 1H) 1.28 (s, 11H) 1.64 (br. s., 4H) 2.77 (br. s., 1 h) 3.42 (br. s., 2H) 3.92 (br. s., 2H) 7.26 (d, J=8.01 Hz, 2H) 7.61 (d, J=8.20 HZ, 2H).

reactant | 4-(4-bromophenyl)tetrahydro-2H-pyran | 1.04 mmol, 250 mg | BrC1=CC=C(C=C1)C1CCOCC1 | C11H13BrO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.14 mmol, 290 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.07 mmol, 210 mg | C(C)(=O)[O-].[K+]
reactant | water | 5 mL | O | H2O
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.104 mmol, 80.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydro-2H-pyran | 33.8% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1CCOCC1)C | C17H25BO3
